US04409214
To a solution of 2-(trans-3-tert-butoxycarbonylallyloxyimino)-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer) (8.0 g) in ethyl acetate (60 ml) and ethanol (60 ml) was added 10% palladium on carbon (4.0 g) moistened in water (3 ml) in a stream of nitrogen atmosphere, followed by subjecting to catalytic reduction under atmospheric pressure for 4 hours. After the catalyst was removed by filtration, the filtrate was evaporated. To the residue were added water and ethyl acetate, followed by adjusting to pH 7.5 with a saturated aqueous sodium bicarbonate. The separated aqueous layer was washed with ethyl acetate, and thereto was added ethyl acetate, followed by adjusting to pH 2.0 with 10% hydrochloric acid. The separated organic layer was washed with a saturated aqueous sodium chloride and then dried over magnesium sulfate. Removal of the solvent gave a residue, which was crystallized from n-hexane and collected by filtration to obtain 2-(3-tert-butoxycarbonylpropoxyimino)-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer) (1.80 g).

reactant | 2-(trans-3-tert-butoxycarbonylallyloxyimino)-2-(2-formamidothiazol-4-yl)acetic acid | 8.0 g | C(C)(C)(C)OC(=O)/C=C/CON=C(C(=O)O)C=1N=C(SC1)NC=O | C14H17N3O6S
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 4.0 g | [Pd] | Pd
solvent | water | 3 ml | O | H2O
product | 2-(3-tert-butoxycarbonylpropoxyimino)-2-(2-formamidothiazol-4-yl)acetic acid | 1.80 g | C(C)(C)(C)OC(=O)CCCON=C(C(=O)O)C=1N=C(SC1)NC=O | C14H19N3O6S
